US07429579B2
c) 7-(5-Methyl-isoxazol-3-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride
7-(5-Methyl-isoxazol-3-yl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester (1.9 g, 5.8 mmol) was treated with ethanol (20 ml) followed by a saturated ethanolic hydrochloride solution (20 ml). The mixture was stirred for 12 h until a precipitate was observed. Diethyl ether (100 ml) was added and the precipitate filtered and dried in vacuo to give the title compound as a colourless solid (1.25 g, 81%).

reactant | 7-(5-Methyl-isoxazol-3-yl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester | 5.8 mmol, 1.9 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)C2=NOC(=C2)C | C19H24N2O3
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrochloride | 20 ml | Cl | ClH
solvent | Diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 7-(5-Methyl-isoxazol-3-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 1.25 g, 81% | Cl.CC1=CC(=NO1)C1=CC2=C(CCNCC2)C=C1 | InChI=1S/C14H16N2O.ClH/c1-10-8-14(16-17-10)13-3-2-11-4-6-15-7-5-12(11)9-13;/h2-3,8-9,15H,4-7H2,1H3;1H
